US03996229
24 G. of 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin in 80 ml. of chloroform are heated under reflux for 20 hours with 38.4 g. of 1-carbethoxy-piperazine. The mixture is poured on to ice-water and extracted with chloroform. The organic phase is dried over magnesium sulfate, evaporated under reduced pressure, and there is obtained crude, oily 1-carbethoxy-4-[8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl]-piperazine.

reactant | 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)C | C15H12ClFS
reactant | 1-carbethoxy-piperazine | C(=O)(OCC)N1CCNCC1 | C7H14N2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-carbethoxy-4-[8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl]-piperazine | C(=O)(OCC)N1CCN(CC1)C1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)C | C22H25FN2O2S
